US08198453B2
(R)-tert-butyl 3-((R)-(3-chlorophenyl)(2-(methylsulfonyloxy)ethoxy)methyl)piperidine-1-carboxylate (15 g, 34 mmol) was dissolved into anhydrous DMF (150 mL), solid NaN3 (6.7 g, 102 mmol, 3 eq) was added and the reaction mixture was heated to 80° C. for overnight. The reaction mixture was cooled to rt and then was added with EtOAc (500 mL), the organic phase was washed with water (3×100 mL) and brine (2×80 mL), dried over Na2SO4 and concentrated in vacuo to provide crude (R)-tert-butyl 3-((R)-(2-azidoethoxy)(3-chlorophenyl)methyl)piperidine-1-carboxylate (13.3 g), which was used for next step without purification.

reactant | (R)-tert-butyl 3-((R)-(3-chlorophenyl)(2-(methylsulfonyloxy)ethoxy)methyl)piperidine-1-carboxylate | 34 mmol, 15 g | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCOS(=O)(=O)C | C20H30ClNO6S
reactant | DMF | 150 mL | CN(C)C=O | C3H7NO
reactant | NaN3 | 102 mmol, 6.7 g, 3 eq | [N-]=[N+]=[N-].[Na+]
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | (R)-tert-butyl 3-((R)-(2-azidoethoxy)(3-chlorophenyl)methyl)piperidine-1-carboxylate | 13.3 g | N(=[N+]=[N-])CCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)Cl | C19H27ClN4O3
